US06953790B2
Step A: Benzyl (3R)-6-bromo-1-(2,4-dimethoxybenzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate
[1,3-bis-(2,4,6-trimethylphenyl-2-imidazolidinylidene)dichloro(phenylmethylene)-(tricyclohexylphosphine)ruthenium] (Grubbs second generation catalyst) (1.78 g, 2.05 mmol) was added to a solution of benzyl (1R)-1-{[(2-bromoprop-2-enyl)(2,4-dimethoxybenzyl)amino]carbonyl}but-3-enylcarbamate (5.29 g, 10.2 mmol) in dichloromethane (1000 mL) and heated to 40° C. After 18 h, the mixture was allowed to cool to ambient temperature and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→30% ethyl acetate/hexanes) gave the title compound (0.79 g). MS 489 (M+1). 1H NMR (500 MHz, CDCl3) δ 7.36-7.35 (m, 4H), 7.33-7.30 (m, 1H), 7.17-7.15 (m, 1H), 6.46-6.43 (m, 2H), 6.13 (d, J=6.1 Hz, 1H), 6.04-6.03 (m, 1H), 5.13-5.07 (m, 2H), 4.93-4.88 (m, 1H), 4.75 (d, J=14.4 Hz, 1H), 4.64-4.60 (m, 1H), 4.47 (d, J=14.4 Hz, 1H), 3.86 (d, J=18.3 Hz, 1H), 3.81 (s, 3H), 3.80 (s, 3H), 2.68-2.63 (m, 1H), 2.24-2.05 (m, 1H).

reactant | benzyl (1R)-1-{[(2-bromoprop-2-enyl)(2,4-dimethoxybenzyl)amino]carbonyl}but-3-enylcarbamate | 10.2 mmol, 5.29 g | BrC(CN(C(=O)[C@@H](CC=C)NC(OCC1=CC=CC=C1)=O)CC1=C(C=C(C=C1)OC)OC)=C | C25H29BrN2O5
catalyst | Grubbs second generation | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
product | Benzyl (3R)-6-bromo-1-(2,4-dimethoxybenzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 0.79 g | BrC1=CC[C@H](C(N(C1)CC1=C(C=C(C=C1)OC)OC)=O)NC(OCC1=CC=CC=C1)=O | C23H25BrN2O5
